US03997536
Preparation of 5-n-hexyl-2-(4-cyanophenyl)-pyrimidine
0.082 mol. of 4-amidino-benzoic acid amide hydrochloride, suspended in a solution of 0.082 mol. 2-n-hexyl-3-ethoxy-acrolein and 0.14 mol. of sodium methylate in 150 ml. of methanol, are stirred overnight under an atmosphere of nitrogen at room temperature. The precipitate obtained by dilution of the mixture with 3 liters of ether is removed by filtration, washed with water until neutral and dried at 40° C. in a vacuum drying cupboard, whereby there are obtained 17.9 g. of 4-(4-n-hexylpyrimid-2-yl)-benzoic acid amide; melting point 231.6°-233.0° C.

reactant | 4-amidino-benzoic acid amide hydrochloride | Cl.C(N)(=N)C1=CC=C(C(=O)N)C=C1
reactant | 2-n-hexyl-3-ethoxy-acrolein | C(CCCCC)C(C=O)=COCC | C11H20O2
reactant | sodium methylate | C[O-].[Na+]
reactant | 4-(4-n-hexylpyrimid-2-yl)-benzoic acid amide | C(CCCCC)C1=NC(=NC=C1)C1=CC=C(C(=O)N)C=C1 | C17H21N3O
solvent | ether | 3 liters | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 5-n-hexyl-2-(4-cyanophenyl)-pyrimidine | C(CCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)C#N | C17H19N3
